Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Neosporin AF / adhesive tape
 
Attending: ___.
 
Chief Complaint:
Lower back pain, bowel/bladder incontinence, saddle anesthesia, 
and RLE weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman presenting with lower back 
pain, bowel and bladder incontinence, saddle anesthesia, and RLE 
weakness. On ___, Ms. ___ began having headaches 
and back pain. On ___, she presented to the ED at 
___ for her unremitting headaches and was found 
to also have neck stiffness. Given her presentation and history 
of viral meningitis, a lumbar puncture was performed, and the 
results were negative. On ___, her headache was "ten 
times worse". On ___, she returned to ___ 
___ and had a ___ patch, after which her headache 
resolved for ___ hours. Later that night however, she began to 
have severe lower back pain and some leg pain. When she woke up 
on ___, she found that she had had fecal incontinence 
overnight. On ___, she had another episode of fecal 
incontinence. She also had urinary incontinence on ___ and 
___. On ___ night, she presented to ___ due 
to her RLE weakness, incontinence, and ___ lumbosacral pain. 
While in the ED, she had urinary incontinence, 3+ reflexes at 
right patella and Achilles tendon, decreased sensation of right 
medial and lateral thigh, A T- and L-spine MR ___ contrast did 
not demonstrate any acute abnormality, and thecal sac and neural 
foramina appeared patent. Neurosurgical and neurologic 
evaluation, per call, "did not reveal any findings." She was 
transferred for a second opinion to ___. 

In the ___ ED at 21:00, initial vital signs were T 97.9, HR 
54, BP 107/70, RR 16, O2 sat 100% on RA. Pain was ___. She 
received 3.5mg IV Dilaudid over 7 hours, IVF normal saline, and 
two doses of IV Diphenhydramine 25 mg. A Foley catheter was 
placed. She was evaluated by Ortho spine who did not find any 
serious spinal cord compressions or surgical indications. She 
was seen by the neurology team, who noted that she had good 
rectal tone, brisk reflexes, sensory deficits in right thigh of 
unusual pattern, and no CN deficits. Given the absence of 
neurologic exam or imaging findings on MRI to explain her 
incontinence or subjective sensory symptoms, neurology suspected 
lumbar sacral sprain as the etiology of her pain. The neurology 
team recommended admission to medicine for pain management and 
physical therapy assessment including gait and balance, as well 
as a review of her LP from OSH. 

Since arrival on the floor, Ms. ___ describes severe lower 
back pain, saddle anesthesia, and RLE weakness. Ms. ___ 
states that since ___, she has had 12 episodes of urinary 
incontinence. She describes her pain as localized to the lower 
spine. When she moves, she feels like there is a "crunching" 
pain in her bone like "glass" rubbing together that "takes her 
breath away". She suspects this is the worst pain that she has 
ever experienced, and she does not know what could be causing 
her pain. She had nausea and emesis twice yesterday, with no 
abdominal pain. She reports chills yesterday but has not felt 
feverish. For the past 3 weeks, she has had a decrease in 
appetite and early satiety. She denies headache, neck stiffness, 
and weight loss.

 
Past Medical History:
Per patient:
- C5-C6 discectomy
- L orbital blowout fracture and repair
- L leg compartment syndrome
- Laparotomy for dermoid cyst removal in both ovaries

Per medical records:
- Viral meningitis in ___  
- Multiple admissions in the past including 12 ED  
 presentations in ___ (per Dr. ___ 
- ___ headache with at least 9 CT and multiple MRI (as of  
 ___ in the past without clear etiology
- Multiple MRI and LP which ruled out MS ___ Dr. ___ 
___, but patient continued to say she has MS, per notes)  
- Multiple abdominal and pelvic MRI, CT and ultrasound which  
 did not show any obstruction in urinary tract 
-___ medical hx of syncope, with normal EEG (per notes, sic,  
 ?EKG) and cardiac evaluation in ___  
- Prior evaluation for intermittent speech problem, left side  
 headache, tremor, urinary hesitancy, with checking B12, ___, 
APL  
 Ab, Lyme, ESR, RPR, MRI and LP without clear diagnosis.  
- Anorexia nervosa since age ___, with multiple unsuccessful 
treatment, depression, suicidal attempt, being victim of rape 
with consequent liver laceration and orbital fracture. 
- Hashimoto thyroiditis and encephalopathy
- C5-C6 Discectomy
- Pyelonephritis  
- Tremor  
- Depression  
- Esophagitis ___ ___ infection  
- Atypical chest pain  
- Insomnia  
- C.diff colitis on chronic oral vancomycin  
- Chronic sinusitis  
- PTSD  
- Alcohol abuse  
- Pancytopenia (attributed to Imuran) 
- Alopecia universalis at the age of ___, regrowth of her hair at 
 
 the age of ___  
- Breast Cysts 
- Ovarian Cysts 

 
Social History:
___
Family History:
- Two sisters (one identical twin): One sister with 
cholelithiasis and hysterectomy for prolapsed uterus. Other 
sister with a stable aneurysm.
- Mother: ___ degeneration since ___
- Father: ___ clot, reiter syndrome
- Paternal grandfather: (deceased) AAA
- Paternal grandmother: (deceased) ___  
- Maternal grandparents: Alive
 
Physical Exam:
ADMISSION EXAM:
===============
VS:  T 98 BP 114/84 HR 60 RR 18 O2 sat 100% RA
GENERAL: Lying rigid in bed, legs trembling, moderate distress  
HEENT: EOMI, PERRL, anicteric sclera, pink conjunctiva, MMM, 
good dentition  
NECK: Nontender supple neck, small mobile nontender 
submandibular lymph node on L side, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: Soft, nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: No cyanosis or edema
NEURO: CN II-XII intact, 3+ reflexes throughout(patellar, 
Achilles, triceps, biceps, brachioradialis), decreased strength 
in R foot in dorsiflexion and plantarflexion, decreased strength 
in RLE, normal strength in LLE and bilateral upper extremities, 
intact vibration sense bilaterally, saddle anesthesia, normal 
rectal tone, +Clonus bilaterally, -Babinski bilaterally, gait 
deferred due to pain.   
SKIN: Warm and well perfused, no excoriations or lesions, no 
rashes
 
Pertinent Results:
LABS:
======
___ 10:25PM ___ WBC-6.4 RBC-3.92 Hgb-13.1 Hct-38.4 MCV-98 
MCH-33.4* MCHC-34.1 RDW-12.0 RDWSD-43.7 Plt ___
___ 10:25PM ___ Neuts-50.0 ___ Monos-7.5 Eos-3.5 
Baso-0.6 Im ___ AbsNeut-3.18 AbsLymp-2.42 AbsMono-0.48 
AbsEos-0.22 AbsBaso-0.04
___ 10:25PM ___ Glucose-88 UreaN-10 Creat-0.8 Na-139 
K-3.6 Cl-105 HCO3-21* AnGap-17
___ 10:25PM ___ VitB12-414 Folate-16
___ 10:25PM ___ TSH-4.6*
___ 11:52PM URINE Color-Yellow Appear-Clear Sp ___
___ 11:52PM URINE ___ Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 11:52PM URINE RBC-1 WBC-1 Bacteri-FEW Yeast-NONE Epi-<1
___ 11:52PM URINE Mucous-RARE
___ 11:52PM URINE UCG-NEGATIVE

___  
___ CSF  
 CSF WBC 2  0    
 CSF RBC 1  0    
 CSF Polynuclear WBCs % Not Reportable  Not Reportable    
 CSF Glucose     65  
 CSF Total Protein     16  
 GRAM STAIN: No organisms seen  
 SPINAL FLUID CULTURE: No growth  
 STREP PNEUMONIAE Ag CSF Presumptive NEGATIVE  

MICRO:
======
___ URINE CULTURE PENDING

IMAGING:
========
___ (ALL FROM ___
___ CT HEAD WITHOUT CONTRAST  
No acute abnormality identified.  

___ Soft Tissue Neck W/ Contrast  
No acute abnormality.  

___ Lumbar MRI  
No acute abnormality.  
The thecal sac and neural foramina appear patent throughout.  

___ Thoracic MRI  
Unremarkable MRI of the thoracic spine.  

 
Brief Hospital Course:
___ with PMHx of asceptic meningitis presenting from 
___ with worsening back pain, urinary/bowel 
incontinence and RLE numbness after ___ patch ___ done after 
LP ___ for worsening headache.

#Lower back pain, bowel and bladder incontinence, saddle 
anesthesia, and RLE weakness: 
Patient with back pain since ___. She subsequently developed 
bladder and bowel incontinence and numbness in her groin region 
and right leg. She received an MRI thoracic and lumbar spine 
with no abnormalities at ___. She had previously 
received a lumbar puncture on ___ at ___ with final 
cultures negative. She was evaluated by Neurology on 
presentation to ___. Given her physical examination, clinical 
picture, and laboratory/imaging results the patient likely is 
experiencing a lumbar sacral sprain given her active job as a 
___ and advised activity at the gym. No other neurologic 
findings can explain her incontinence and subjective sensory 
symptoms as it does not fit a specific pattern and imaging does 
not reveal spinal cord compression. UA negative for UTI. 
Recommend stopping Linzess given stool incontinence. Her pain 
was treated with Toradol 15mg Q6h (was previously listed as an 
allergy, but patient received this at ___ last week with 
no reaction), Acetaminophen 1g Q8 and Cyclobenzaprine 10mg TID. 
She was evaluated by ___ and was able to walk up stairs and was 
cleared for discharge home. Recommended standing Acetaminophen 
and Ibuprofen for pain control for one week and Cyclobenzaprine 
for muscle spasm at bedtime. She can follow up with her primary 
care physician and with consideration of referral to outpatient 
physical therapy. 

# Constipation: Hold Linzess given stool incontinence, continue 
docusate and senna as needed for constipation. 

#GERD: Continue Omeprazole 40mg 

#Hashimoto thyroiditis: Continue home Levothyroxine

#Insomnia: Continue home Trazadone, hold Ambien

TRANSITIONAL ISSUES:
=====================
-Please monitor lower back pain, consider referral to outpatient 
physical therapy.
-Please monitor numbness in right leg and ensure resolution.
-Recommend stopping Linzess if she continues to have stool 
incontinence. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Omeprazole 40 mg PO DAILY 
2. Linzess (linaclotide) 145 mcg oral DAILY 
3. Zolpidem Tartrate 5 mg PO QHS 
4. TraZODone 50 mg PO QHS:PRN insomnia 
5. Levothyroxine Sodium 137 mcg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Cyclobenzaprine 5 mg PO HS:PRN back pain 
RX *cyclobenzaprine 10 mg 0.5 (One half) tablet(s) by mouth qHS 
PRN Disp #*5 Tablet Refills:*0 
3.  Levothyroxine Sodium 137 mcg PO DAILY  
4.  Omeprazole 40 mg PO DAILY  
5.  TraZODone 50 mg PO QHS:PRN insomnia  
6.  Zolpidem Tartrate 5 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Musculoskeletal lumbar back pain 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ because of your back pain. You 
received an MRI of your spine at ___, which was 
reassuring and did not show any abnormalities in your spine. You 
were evaluated by the Neurologist and your back pain seems to be 
due to a musculoskeletal strain. You were seen by the physical 
therapists and you were able to walk without any issues. 
Recommend stopping Linzess if you continue to have stool 
incontinence. 

When you go home you can take Tylenol ___ mg q8h, standing for 
the first 7 days, then as needed. You can also take Ibuprofen 
400-600 mg q8h, standing for the first 7 days, then as needed. 
You can use a muscle relaxer Cyclobenzaprine  XR 10 mg QHS for 7 
days, no driving after taking this medication. You can use 
Lidocaine ointment, cover area, and place gauze pad over daily 
as needed. You can use a hot pack in morning and at night before 
bed and ice the area for 20 min after stretching and once in 
evening. 

If you develop weakness or are unable to urinate please see your 
primary care doctor or come to the Emergency Department. Please 
follow up with your primary care physician ___ ___ weeks. 

It was a pleasure taking care of you!

Your ___ Team
 
Followup Instructions:
___